US08067407B2
Step b): 4-(4-Cyclobutylpiperazin-1-yl)-6-hydrazinopyrimidine
At RT, 4.4 ml (4.5 g, 89.7 mmol) of hydrazine hydrate are added dropwise with stirring to a solution of 1.9 g (7.5 mmol) of 4-chloro-6-(4-cyclobutylpiperazin-1-yl)pyrimidine in 28 ml of ethanol. The reaction solution is stirred at 80° C. for 16 h. For work-up, the mixture is concentrated under reduced pressure, the residue is triturated repeatedly with diethyl ether, and the precipitated solid is filtered off and dried under reduced pressure. The residue is then purified by column chromatography on silica gel (mobile phase dichloromethane/methanol 10/2). Yield: 1.5 g (80% of theory)

reactant | hydrazine hydrate | 89.7 mmol, 4.4 ml, 4.5 g | O.NN
reactant | 4-chloro-6-(4-cyclobutylpiperazin-1-yl)pyrimidine | 7.5 mmol, 1.9 g | ClC1=NC=NC(=C1)N1CCN(CC1)C1CCC1 | C12H17ClN4
solvent | ethanol | 28 ml | C(C)O | C2H6O
product | 4-(4-Cyclobutylpiperazin-1-yl)-6-hydrazinopyrimidine | C1(CCC1)N1CCN(CC1)C1=NC=NC(=C1)NN | C12H20N6
